//======================================================================
// ESD_MM.scs
//======================================================================
// Spectre netlist to test the ESD clamp compact model (BESD_1_0_0.va) under
// Machine Mode
//
// Version: 1.0.0
// Tested on: Cadence Spectre version 7.2.0 64bit
//                        and version 15.1.0 64bit
//
// Author: Tianshi Wang [tianshi@berkeley.edu]
// Last Modified: Mar 5, 2017

simulator lang=spectre

ahdl_include "../models/BESD_1_0_0.va"

saveOptions options save=all

V1 (1 0) vsource type=pulse val0=0 val1=200 delay=10n rise=100p fall=100p width=1000n period=2000n
C1 (1 2) capacitor c=200p ic=0
L1 (2 3) inductor l=0.5u ic=0
R1 (3 4) resistor r=5
X1 (5 4) BESD_1_0_0
X2 (5 0) BESD_1_0_0
RL (4 0) resistor r=500

// transient simulation
tran tran stop=1500n
